US07351719B2
Z23e) (4-pyrrolidin-1-ylmethyl-phenyl)-acetonitrile
0.446 mL (5.44 mmol) of pyrrolidine and 1.366 g (9.882 mmol) of potassium carbonate are added to 20 mL of dimethylformamide. 1.038 g (4.941 mmol) of (4-bromomethyl-phenyl)-acetonitrile are added with stirring and the mixture is stirred for 12 hours at RT. The reaction mixture is evaporated down in the rotary evaporator and the residue is extracted with EtOAc and water. The organic phase is dried over magnesium sulphate and the solvent is removed using the rotary evaporator.

reactant | pyrrolidine | 5.44 mmol, 0.446 mL | N1CCCC1 | C4H9N
reactant | potassium carbonate | 9.882 mmol, 1.366 g | C([O-])([O-])=O.[K+].[K+]
reactant | (4-bromomethyl-phenyl)-acetonitrile | 4.941 mmol, 1.038 g | BrCC1=CC=C(C=C1)CC#N | C9H8BrN
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (4-pyrrolidin-1-ylmethyl-phenyl)-acetonitrile | N1(CCCC1)CC1=CC=C(C=C1)CC#N | C13H16N2
